US07282588B2
4-bromo-1-(phenylsulfonyl)-2-(trimethylsilyl)-1H-pyrrolo[2,3-b]pyridine
A solution of N,N-diisopropylamine (3.6 mmol) in THF (9 ml) was cooled to −78° C. under a nitrogen atmosphere. A solution of n-BuLi (2.5M in hexanes, 3.3 mmol) was added dropwise over 3 minutes. After 30 minutes of stirring, a solution of 4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine (3.1 mmol) in THF (9 ml) was added dropwise over 9 minutes. After an additional 2 hours of stirring at −78° C., chlorotrimethylsilane (3.1 mmol) was added dropwise over 1 minute. After 1 hour of stirring at −78° C., the reaction was quenched with saturated NH4Cl(aq) (10 ml), warmed to room temperature, and partitioned between water and EtOAc. The aqueous phase was further extracted with EtOAc and the organic layers combined, washed with brine, dried (MgSO4), concentrated, and purified by silica gel chromatography (isocratic CHCl3) to give the title product as a white solid (82%). ESMS [M+H]+: 410.8.

reactant | N,N-diisopropylamine | 3.6 mmol | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 3.3 mmol, 2.5M | [Li]CCCC
reactant | 4-bromo-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | 3.1 mmol | BrC1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C13H9BrN2O2S
reactant | chlorotrimethylsilane | 3.1 mmol | Cl[Si](C)(C)C | C3H9ClSi
solvent | THF | 9 ml | C1CCOC1 | C4H8O
solvent | THF | 9 ml | C1CCOC1 | C4H8O
product | 4-bromo-1-(phenylsulfonyl)-2-(trimethylsilyl)-1H-pyrrolo[2,3-b]pyridine | 82% | BrC1=C2C(=NC=C1)N(C(=C2)[Si](C)(C)C)S(=O)(=O)C2=CC=CC=C2 | C16H17BrN2O2SSi
